US05340701
Preparation of 6-chloro-2-isobutylthio-4-(3-methylbut-1-oxy)pyrimidine
A solution of 6.7 ml (55.3 mmol) of isobutyl mercaptan in 40 ml of THF is added dropwise to a suspension of 2.2 g of NaH in 90 ml of THF. During this addition, the temperature is prevented from rising above 50° C. by cooling. The solution is cooled to 20° C. and added to a solution of 13.0 g of 2,4-dichloro-6-(3-methylbut-1-oxy)pyrimidine in 80 ml of THF at -10° C. When the temperature has slowly risen to 25° C., the reaction mixture is poured into 200 ml of water. Extraction three times with toluene, drying of the combined organic phases using MgSO4 and evaporation of the solvent give 17.3 g of a mixture. Separation on SiO2 (petroleum ether 80°-110° C.) gives 11.5 g (71.9% of theory) of the title product.

reactant | isobutyl mercaptan | 55.3 mmol, 6.7 ml | C(C(C)C)S | C4H10S
reactant | NaH | 2.2 g | [H-].[Na+]
reactant | 2,4-dichloro-6-(3-methylbut-1-oxy)pyrimidine | 13.0 g | ClC1=NC(=CC(=N1)Cl)OCCC(C)C | C9H12Cl2N2O
reactant | water | 200 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 6-chloro-2-isobutylthio-4-(3-methylbut-1-oxy)pyrimidine | 17.3 g | ClC1=CC(=NC(=N1)SCC(C)C)OCCC(C)C | C13H21ClN2OS
